US05521179
2-[3-Benzyloxycarbonylamino-5-(3-fluorobenzyl)-2-oxo-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide.
To a solution of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.51 g) in dimethyl sulfoxide (2 mL), toluene (4 mL) and dichloroacetic acid (0.14 g) was added 2-[3-benzyloxycarbonyl-amino-5-(3-fluorobenzyl)-2-oxo-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-2-hydroxy-1-isopropylpropyl)acetamide (0.15 g). The mixture was allowed to stir overnight and was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The organics were washed (brine), dried, evaporated, and purified using chromatography, with dichloromethane as the eluent to yield the title compound (80%); NMR: 0.79-0.97 (m,6), 2.21 (m,1), 4.06 (m, NHCH hydrate), 4.49-4.81 (m,3, NHCH keto, CH2CO), 5.13 (s,2, CH2), 6.95 (m, OH hydrate), 7.01-7.07 (m,3, phenyl), 7.22-7.40 (m,7, phenyl), 7.72 (m,1, pyridone), 7.82 (d,J=10.5, NH hydrate), 8.36 (s, NH hydrate), 8.40 (s, NH keto), 8.92 (d,J=6.5, NH keto form).

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.51 g | Cl.CN(CCCN=C=NCC)C
reactant | dichloroacetic acid | 0.14 g | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | 2-[3-benzyloxycarbonyl-amino-5-(3-fluorobenzyl)-2-oxo-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-2-hydroxy-1-isopropylpropyl)acetamide | 0.15 g | C(C1=CC=CC=C1)OC(=O)C=1C(N(C=C(C1N)CC1=CC(=CC=C1)F)CC(=O)NC(C(C(F)(F)F)O)C(C)C)=O | C28H29F4N3O5
reactant | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | dimethyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
product | 2-[3-Benzyloxycarbonylamino-5-(3-fluorobenzyl)-2-oxo-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 80% | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C=C(C1)CC1=CC(=CC=C1)F)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O | C28H27F4N3O5
